US07692005B2
To a solution of N1,N1-Dimethyl-N2-(4-nitro-phenyl)-propane-1,2-diamine (446 mg, 2 mmol) in absolute ethanol (20 mL) was added hydrazine monohydrate (0.78 mL, 8 equiv.) followed by the addition of a small portion of Raney nickel. The reaction mixture was heated to 50° C. with stirring for 2 h at which point all gas evolution had ceased. The reaction mixture was filtered through celite to remove the Raney nickel. The filtrate was concentrated under reduced pressure to give the N-(2-Dimethylamino-1-methyl-ethyl)-benzene-1,4-diamine as a brown oil. This material was carried on in subsequent steps without purification.

reactant | N1,N1-Dimethyl-N2-(4-nitro-phenyl)-propane-1,2-diamine | 2 mmol, 446 mg | CN(CC(C)NC1=CC=C(C=C1)[N+](=O)[O-])C | C11H17N3O2
reactant | hydrazine monohydrate | 0.78 mL, 8 equiv. | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | N-(2-Dimethylamino-1-methyl-ethyl)-benzene-1,4-diamine | CN(CC(C)NC1=CC=C(C=C1)N)C | C11H19N3
